US06177423B1
6-Chloro-2-hydroxy-benzo[de]isoquinoline-1,3-dione
4-Chloro-1,8-naphthalic anhydride (1.4 g, 6.0 mmol) and hydroxylamine hydrochloride (0.8 g, 11.5 mmol) were reacted in pyridine (50 mL) following the procedure of Example 1 to give 1.2 g of the title compound, mp 234-236° C.;

reactant | 4-Chloro-1,8-naphthalic anhydride | 6.0 mmol, 1.4 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)Cl | C12H5ClO3
reactant | hydroxylamine hydrochloride | 11.5 mmol, 0.8 g | Cl.NO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 6-Chloro-2-hydroxy-benzo[de]isoquinoline-1,3-dione | 1.2 g | ClC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)O)=O | C12H6ClNO3
